US06143920
542.5 g (5.0 mol) of methyl chloroacetate are initially introduced and stirred at 25° C. 945.4 g (5.25 mol) of 30% strength sodium methoxide solution are added dropwise in the course of 2.5 h such that a reaction temperature of 65° C. is not exceeded. After the addition, stirring is continued at reflux temperature for a further 3 h. 518.8 g of methanol are then removed from the reaction mixture by distillation. 741.2 g (10 mol) of n-butanol are added to the residue and the mixture is heated under reflux. In the course of this, methanol is removed through a 0.5 m long Multifil column at a reflux ratio of approximately 1:1 (398.7 g of distillate). After 6.5 h, the conversion of the methyl methoxyacetate to the n-butyl methoxyacetate is >98%. After cooling, the reaction mixture is filtered off with suction and the residue is washed with 277 g of n-butanol. The liquid phase (filtrate and wash liquid) of 1,132.9 g is fractionated through a 0.5 m long Multifil column. n-Butyl methoxyacetate (548.1 g, yield 75%) is obtained as the main fraction with a purity >99%, a chlorine content of 10 ppm and a water content of <0.05%.

reactant | methyl chloroacetate | 5.0 mol, 542.5 g | ClCC(=O)OC | C3H5ClO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | n-butanol | 10 mol, 741.2 g | C(CCC)O | C4H10O
product | n-Butyl methoxyacetate | 548.1 g, yield 75% | COCC(=O)OCCCC | C7H14O3
